US06677337B2
Preparation of 4-{N-[2-(4-fluoro-phenyl)-acetyl]-N′-methyl-N′-(2-methylsulfanyl-pyrimidine-4-carbonyl)-hydrazino}-piperidine-1-carboxylic acid tert-butyl ester (17).
To a stirred 0° C. solution of 4-[N′-Methyl-N′-(2-methylsulfanyl-pyrimidine-4-carbonyl)-hydrazino]-piperidine-1-carboxylic acid tert-butyl ester, 16, (19.8 g, 51.7 mmol) in pyridine (25 mL) is added (4-fluorophenyl)acetyl chloride (10 g, 57.9 mmol). The reaction mixture is slowly warmed to room temperature and then stirred for 2 hours. The reaction mixture is then concentrated in vacuo. Purification over silica (100% EtOAc) affords 42 g of the desired product: 1H NMR (300 MHz, CDCl3) δ 8.80-8.70 (m, 1H), 7.40-7.32 (m, 1H), 7.29-7.18 (m, 2H), 7.07-6.94 (m, 2H), 4.24-4.10 (m, 3H), 3.82-3.59 (m, 2H), 3.33 (d, J=8.4 Hz, 3H), 2.88-2.67 (m, 2H), 2.60 (d, J=18.6 Hz, 3H), 1.96-1.92 (m, 2H), 1.70-1.65 (m, 2H), 1.48 (d, J=4.0 Hz, 9H); ESI/MS: 518.2 (M+H).

reactant | 4-[N′-Methyl-N′-(2-methylsulfanyl-pyrimidine-4-carbonyl)-hydrazino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NN(C(=O)C1=NC(=NC=C1)SC)C | C17H27N5O3S
reactant | (4-fluorophenyl)acetyl chloride | 57.9 mmol, 10 g | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 4-{N-[2-(4-fluoro-phenyl)-acetyl]-N′-methyl-N′-(2-methylsulfanyl-pyrimidine-4-carbonyl)-hydrazino}-piperidine-1-carboxylic acid tert-butyl ester | 42 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(N(C(=O)C1=NC(=NC=C1)SC)C)C(CC1=CC=C(C=C1)F)=O | C25H32FN5O4S
